US04837305
Nα -t-Butyloxycarbonyl-p-Nitro-L-Phenylalanine (Compound 4)
p-Nitro-L-phenylalanine (51.3 g, 0.25 mol) was stirred in ice-cold sodium hydroxide (1N, 245 ml). Dioxane (200 ml) and di-t-butyl-dicarbonate (60.0 g, 0.28 mol) were added. After stirring overnight in the cold the solvent was evaporated under reduced pressure and the cold mixture acidified to pH 2 (pH paper) with sodium bisulfate (1N). The aqueous solution was extracted three times with ethyl acetate, the extracts combined and washed with water. After drying the organic phase over magnesium sulfate, filtration and evaporation of the filtrate under reduced pressure, the residue was recrystallized from ethyl acetate/hexanes to give 60.7 g of the title compound. [α]D25 = +25.4° (c=1.1, 1M sodium bicarbonate); m.p. 105°-107° C.

reactant | p-Nitro-L-phenylalanine | 0.25 mol, 51.3 g | [N+](=O)([O-])C1=CC=C(C[C@H](N)C(=O)O)C=C1 | C9H10N2O4
reactant | di-t-butyl-dicarbonate | 0.28 mol, 60.0 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | Dioxane | 200 ml | O1CCOCC1 | C4H8O2
product | Nα -t-Butyloxycarbonyl-p-Nitro-L-Phenylalanine | 60.7 g | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=C(C=C1)[N+](=O)[O-])C(=O)O | C14H18N2O6
